US08013010B2
2-Fluoro-4-(3,5-dimethyl-4-isoxazolyl)phenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside
By carrying out the operation analogously to example 3, starting from 4-bromo-2-fluorophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside obtained according to preparation VI, and 3,5-dimethyl-4-isoxazoleboronic acid, the expected compound is obtained in the form of a white solid with a yield of 59%.

reactant | 4-bromo-2-fluorophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | C(C)(=O)O[C@H]1[C@H](OC2=C(C=C(C=C2)Br)F)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C17H18BrFO7S
reactant | 3,5-dimethyl-4-isoxazoleboronic acid | CC1=NOC(=C1B(O)O)C | C5H8BNO3
product | 2-Fluoro-4-(3,5-dimethyl-4-isoxazolyl)phenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | yield of 59% | C(C)(=O)O[C@H]1[C@H](OC2=C(C=C(C=C2)C=2C(=NOC2C)C)F)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C22H24FNO8S
